Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.44587894068
[H:1][O:2][C:3]#[C:4][O:6][H:7].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],-2.5975803495200003
[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],3.51761313004
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7][H:8]>>[C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8].[O:1],6.908867205549999
[C:3]#[C:4][H:5].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4][H:5],-2.46106428537
[C:8]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:9]#[C:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-5.6738253013
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-7.38137863
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],4.1586518358
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2],5.36385012139
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],1.65857562385
[H:1][C:2](/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.85377154054
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][H:11],-0.1104284779299999
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[H:1][C:2]#[C:3].[O:4][C:5]#[C:6][H:7],3.18607814932
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]=[O:3],0.719087825989
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.4738490539500002
[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],0.052912996560300005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7],1.93664186078
[H:1][C:2]([H:3])[C:4](=[O:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]1[O:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11],3.1666684129
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:11](/[O:10][C:9])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12],0.583772655969
[C:8]([H:9])([H:14])[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.531137965259999
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.44923031741
[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-3.89077597768
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.68195413118
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.429246850002
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.0887669281183
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.02287211116
[C:1]#[C:2][C:3][C:9]([H:6])[H:10].[C:4]([H:5])#[C:7][H:8]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],0.72729862714
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2],2.76895211634
[C:3]#[C:4][O:5][H:6].[O:1]=[C:2]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9],-2.69347310033
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:11](=[C:9][H:10])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])=[C:11]1[H:12],-1.74642977475
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.052330749009999
